US07807671B2
To a stirred solution of tert-butyl 4-(1-phenyl-4,5-dihydro-1H-imidazol-2-yl)piperidine-1-carboxylate (100 mg) in dry benzene (5 ml), nickel peroxide (350 mg) dissolved in dry benzene (20 ml) was added. The reaction mixture was refluxed for over-night and filtered through a celite pad using CHCl3 as eluent. The combined organic layer was removed under reduced pressure. The resulting oil was purified by column chromatography using ethyl acetate\hexane (3:7) to afford tert-butyl 4-(1-phenyl-1H-imidazol-2-yl)piperidine-1-carboxylate as pure product

reactant | tert-butyl 4-(1-phenyl-4,5-dihydro-1H-imidazol-2-yl)piperidine-1-carboxylate | 100 mg | C1(=CC=CC=C1)N1C(=NCC1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H27N3O2
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
catalyst | nickel peroxide | 350 mg | [O-2].[O-2].[O-2].[Ni+3].[Ni+3]
product | tert-butyl 4-(1-phenyl-1H-imidazol-2-yl)piperidine-1-carboxylate | C1(=CC=CC=C1)N1C(=NC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H25N3O2
